US08957074B2
To a solution of 7-cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.205 mmol, 1.0 eq) and Diisopropylethylamine (0.071 mL, 0.409 mmol, 2.0 eq) in CH2Cl2 (5 mL) was added Ethyl Chloroformate (0.022 mL, 0.225 mmol, 1.1 eq) diluted in 3.0 mL of CH2Cl2. The reaction mixture was stirred at 23° C. for 1 hour then diluted with water. The organic was collected and dried over Na2SO4, filtered, and concentrated. The crude reaction was purified using silica gel chromatography which gave 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester (25 mg) in 21% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.22-1.37 (m, 4H) 1.60 (br. s., 2H) 1.69-1.82 (m, 3H) 1.97 (br. s., 3H) 2.04-2.20 (m, 4H) 2.56 (d, J=8.59 Hz, 2H) 3.19 (s, 6H) 3.60 (br. s., 2H) 4.21 (q, J=7.07 Hz, 2H) 4.36 (br. s., 2H) 4.56 (br. s., 1H) 4.83 (t, J=8.59 Hz, 1H) 6.52 (s, 1H) 7.82 (dd, J=8.59, 2.02 Hz, 1H) 8.39 (d, J=2.02 Hz, 1H) 8.59 (d, J=8.59 Hz, 1H) 8.77 (s, 1H). HRMS m/z, (M+H)+: 561.2946.

reactant | 7-cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.205 mmol, 100 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC3CCC(C2)N3)N1C1CCCC1)C | C26H32N8O2
reactant | Diisopropylethylamine | 0.409 mmol, 0.071 mL, 2.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ethyl Chloroformate | 0.225 mmol, 0.022 mL, 1.1 eq | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 25 mg, 21% yield | C(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C29H36N8O4
